US05051412
A mixture of (3-nitro-6-(dicarbo-t-butoxymethyl)-2-pyridyl)acetonitrile (6.85 g, 18.2 mmol), dioxane (150 mL), and 2M sulfuric acid (25 mL) was heated at reflux for 12 hours. The resulting solution was cooled, neutralized with sodium carbonate, and extracted with ethyl acetate (3×50 mL). These extracts were combined, dried (MgSO4), and evaporated under reduced pressure to yield an oil. This oil was passed through a silica gel filter (approximately 100 g) followed by methylene chloride. This filtrate was evaporated under reduced pressure to afford (6-methyl-3-nitro-2-pyridyl)acetonitrile (1.91 g, 10.8 mmol, 59%) as an off-white solid: mp, 70°-72° C.; IR (KBr)

reactant | (3-nitro-6-(dicarbo-t-butoxymethyl)-2-pyridyl)acetonitrile | 18.2 mmol, 6.85 g | [N+](=O)([O-])C=1C(=NC(=CC1)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CC#N | C18H23N3O6
reactant | sulfuric acid | 2M, 25 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | (6-methyl-3-nitro-2-pyridyl)acetonitrile | 10.8 mmol, 1.91 g, 59% | CC1=CC=C(C(=N1)CC#N)[N+](=O)[O-] | C8H7N3O2
